US04333760
N-[(4-Methylquinazolin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide
A mixture containing 5 g of methyl 2-[[(4-methylquinazolin-2-yl)aminocarbonyl]aminosulfonyl]benzoate, 20 ml of ethanol, 2.5 ml of water and 2.5 g of potassium hydroxide is stirred at ambient temperature and pressure for 18 hours. The mixture is then diluted with water and 20 ml of concentrted hydrochloric acid added with stirring. The resulting precipitate is filtered, washed with water and dried.

reactant | methyl 2-[[(4-methylquinazolin-2-yl)aminocarbonyl]aminosulfonyl]benzoate | 5 g | CC1=NC(=NC2=CC=CC=C12)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C18H16N4O5S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
solvent | water | O | H2O
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 2.5 ml | O | H2O
product | N-[(4-Methylquinazolin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide | CC1=NC(=NC2=CC=CC=C12)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)O | C17H14N4O5S
